US09079866B2
4′-(5-Aminopyrazin-2-yl)-3′-fluoro-N-[(1S,2S)-1-(hydroxymethyl)-2-methylbutyl]biphenyl-2-sulfonamide
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and 2-bromo-N-((2S,3S)-1-hydroxy-3-methylpentan-2-yl)benzene-sulfonamide. MS (ESI): mass calcd. for C22H25FN4O3S, 444.16; m/z found, 445.2 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.37 (s, 1H), 8.16-8.13 (m, 1H), 8.06 (d, J=1.4, 1H), 7.86 (m, 1H), 7.67-7.62 (m, 1H), 7.58-7.53 (m, 1H), 7.39-7.28 (m, 3H), 3.46-3.35 (m, 2H), 3.13 (q, J=5.4, 1H), 1.60-1.49 (m, 1H), 1.48-1.36 (m, 1H), 1.07-0.93 (m, 1H), 0.84-0.74 (m, 6H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-bromo-N-((2S,3S)-1-hydroxy-3-methylpentan-2-yl)benzene-sulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)N[C@H](CO)[C@H](CC)C | C12H18BrNO3S
product | 4′-(5-Aminopyrazin-2-yl)-3′-fluoro-N-[(1S,2S)-1-(hydroxymethyl)-2-methylbutyl]biphenyl-2-sulfonamide | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N[C@@H]([C@H](CC)C)CO)F | C22H25FN4O3S
